* DC operating point of the Big Muff (knobs do not affect DC: every pot is AC-coupled).
.include bigmuff.cir
.include models-em.lib
VCC VCC 0 9
VIN IN 0 0
XBM IN OUT VCC bigmuff
.control
op
print v(xbm.b4) v(xbm.c4) v(xbm.e4) v(xbm.b3) v(xbm.c3) v(xbm.e3) v(xbm.b2) v(xbm.c2) v(xbm.e2) v(xbm.b1) v(xbm.c1) v(xbm.e1) v(xbm.t1) v(xbm.t3)
.endc
.end
